Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Assault
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo F who was brought to ___ ED by
EMS after being physically assaulted by her son. She reports he
physically assaulted her with his fists only, striking her head
and face multiple times. She denies LOC. She called a family
member who does not live in the area and told them of the events
and this family member called ___. When EMS arrived patient was
ambulatory and interactive. She reports she takes ASA 81mg daily
and also took ibuprofen today. She reports current headache but
denies double vision, blurry vision, new weakness, numbness or
tingling.
 
Past Medical History:
CVA in ___
Diabetes 
Migraines
GERD 
HLD
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On admission: 
O: BP: 146/100  HR: 90    R 14      O2Sats 99% on RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 4mm reactive, EOMs intact, periorbital edema and
bruising of R eye. Able to open lid half way.  
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3
mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally.

On discharge:
The patient is sleepy but arousable, oriented to person, place 
and time. She has poor effort with exam. There is significant 
right periorbital edema and ecchymosis.  
Pupils are equal and reactive to light, 4mm-2mm. Extraocular 
movements are intact. 
Face activates symmetrically, tongue protrudes midline.
Moves all extremities full strength ___, right pronator drift.
 
Pertinent Results:
CT Head w/o Contrast ___ 1:19 AM
FINDINGS:    
There is no evidence of large territorial infarction, edema, or 
mass effect.  
Subtle hyperdensity is seen within several frontal lobe sulci 
(2:18, 2:17, 
2:20, 2:21). This may represent small subarachnoid blood. A 
calcified 
extra-axial lesion is seen in the left frontal lobe (02:22), 
measuring 
approximately 1.6 x 1.2 cm. The ventricles and sulci are normal 
in size and configuration.   
There is no evidence of fracture. There is a large right-sided 
periorbital 
hematoma The visualized portion of the paranasal sinuses, 
mastoid air cells, and middle ear cavities are clear.   
IMPRESSION:   
1. Subtle hyperdensity in several right-sided frontal sulci may 
represent 
small subarachnoid hemorrhage. 
2. Left frontal calcified extra-axial mass, possibly a 
meningioma. 
  
CT Head w/o Contrast ___ 09:00 AM
FINDINGS:  
The subtle subarachnoid hemorrhage within the right frontal lobe 
is unchanged in size and distribution. There is no evidence of 
new hemorrhage. There is no evidence of infarction, edema, or 
mass. The ventricles and sulci are normal in size and 
configuration. 
  
There is a right frontal subgaleal hematoma, unchanged from 
prior. There is no evidence of fracture. The calcified 
extra-axial lesion adjacent to the inner table of the left 
frontal calvarium is also unchanged. The visualized portion of 
the paranasal sinuses, mastoid air cells, and middle ear 
cavities are clear. The patient is status post bilateral 
cataract surgery. Otherwise, the visualized portion of the 
orbits are unremarkable. 
IMPRESSION:   
1. Stable right frontal lobe posttraumatic subarachnoid 
hemorrhage. 
2. No evidence of new hemorrhage. 
3. Stable right frontal subgaleal hematoma without evidence of 
underlying 
fracture. 
4. Stable calcified lesion adjacent to the inner table of the 
left frontal 
calvarium, possibly a meningioma. 

Labs:
___ 03:11AM   K+-3.5
___ 03:08AM   SODIUM-140 POTASSIUM-3.5 CHLORIDE-103
___ 02:12AM   K+-8.7*
___ 01:00AM   GLUCOSE-101* UREA N-11 CREAT-0.8 SODIUM-138 
POTASSIUM-6.8* CHLORIDE-101 TOTAL CO2-26 ANION GAP-18
___ 01:00AM   estGFR-Using this
___ 01:00AM   WBC-19.6* RBC-4.40 HGB-13.6 HCT-41.3 MCV-94 
MCH-30.9 MCHC-32.9 RDW-13.2 RDWSD-45.2
___ 01:00AM   NEUTS-79.2* LYMPHS-12.1* MONOS-6.1 EOS-1.4 
BASOS-0.7 IM ___ AbsNeut-15.51* AbsLymp-2.38 AbsMono-1.20* 
AbsEos-0.27 AbsBaso-0.14*
___ 01:00AM   PLT COUNT-282
___ 01:00AM   ___ PTT-27.1 ___
___ 12:15AM URINE  HOURS-RANDOM
___ 12:15AM URINE  HOURS-RANDOM
___ 12:15AM URINE  UHOLD-HOLD
___ 12:15AM URINE  GR HOLD-HOLD
___ 12:15AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
On ___, Ms. ___ was brought to the ___ ED by EMS 
after being physically assaulted by her son. He reportedly 
struck her in the head and face multiple times with his fists.  
On arrival in the ED, the patient received platelets to reverse 
aspirin therapy.  She was loaded with 1g keppra and continued on 
keppra 500mg twice daily.  CT scan revealed subtle hyperdensity 
in several right-sided frontal sulci which may represent small 
subarachnoid hemorrhage and left frontal calcified extra-axial 
mass, possibly a meningioma. The patient remained neurologically 
and hemodynamically stable.  Repeat NCHCT 6 hours later was 
stable.  The patient was assessed by occupational therapy, who 
recommended home services.  The patient declined evaluation by 
physical therapy. The patient verbally consented to discussing 
her injury with her outpatient neurologist Dr. ___ at 
___ who will see her in follow-up within 1 week 
for headache management.

A discussion was held with the patient and her mother regarding 
her safety after discharge.  Social work was contacted who met 
with the patient individually, and again with the patient and 
her mother present.  A consult with the ___ Violence 
Prevention and Recovery was offered, which the patient declined. 
 The patient was contracted for safety and advised to keep a 
cell phone on her person for emergencies and call ___ for any 
concerns of escalating violence. 

 
Medications on Admission:
Adderall 30mg ___ tab TID  (filled ___ Q. 45)
tramadol 50mg Q12H PRN
gabapentin 300mg TID
metformin 1000mg daily
atorvastatin 10mg daily
relpax 40mg PRN
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain/fever 
2. Atorvastatin 10 mg PO QPM 
3. Docusate Sodium 100 mg PO BID 
4. Gabapentin 300 mg PO TID 
5. LeVETiracetam 500 mg PO BID 
RX *levetiracetam [Keppra] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*14 Tablet Refills:*0
6. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*21 Tablet Refills:*0
7. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
8. Pantoprazole 40 mg PO Q24H 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Outpatient Occupational Therapy

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Traumatic subarachnoid hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Brain Hemorrhage without Surgery

Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
• Headache is one of the most common symptom after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

More Information about Brain Injuries:
• You were given information about headaches after TBI and the 
impact that TBI can have on your family.
• If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason

 
Followup Instructions:
___